### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Angle/Bisector): bisecting angles and equal distances

### PR DESCRIPTION
**Pull request by jsm28**
Prove a lemma

```lean
/-- A point `p` is equidistant to two affine subspaces if and only if the angles at a point `p'`
in their intersection between `p` and its orthogonal projections onto the subspaces are equal. -/
lemma dist_orthogonalProjection_eq_iff_angle_eq {p p' : P} {s₁ s₂ : AffineSubspace ℝ P}
    [s₁.direction.HasOrthogonalProjection] [s₂.direction.HasOrthogonalProjection]
    (hp' : p' ∈ s₁ ⊓ s₂) :
    haveI : Nonempty s₁ := ⟨p', hp'.1⟩
    haveI : Nonempty s₂ := ⟨p', hp'.2⟩
    dist p (orthogonalProjection s₁ p) = dist p (orthogonalProjection s₂ p) ↔
      ∠ p p' (orthogonalProjection s₁ p) = ∠ p p' (orthogonalProjection s₂ p) := by
```

that gives the basic fact relating equal distances to affine subspaces, and bisecting angles involving those subspaces, needed to connect `incenter` and `excenter` to bisecting angles.  (Other pieces involved in getting such a statement for angles involving vertices of a triangle rather than just touchpoints include #29410, #29413, #29418 and their dependencies.)

I expect the new file `Bisector.lean` to be an appropriate place to end up with actual definitions of bisectors as submodules and affine subspaces; those definitions aren't needed for my immediate goals with `incenter` and `excenter`, but it seems appropriate to use such a file for lemmas relating to bisectors whether or not they explicitly involve such definitions.

I do expect to add similar statements involving oriented angles in a followup, so the imports of this new file should be expected to increase.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Angle/Bisector.lean [hunk 1]
```diff
@@ -0,0 +1,113 @@
...
+
+/-- A point `p` is equidistant to two affine subspaces if and only if the angles at a point `p'`
+in their intersection between `p` and its orthogonal projections onto the subspaces are equal. -/
+lemma dist_orthogonalProjection_eq_iff_angle_eq {p p' : P} {s₁ s₂ : AffineSubspace ℝ P}
+    [s₁.direction.HasOrthogonalProjection] [s₂.direction.HasOrthogonalProjection]
+    (hp' : p' ∈ s₁ ⊓ s₂) :
+    haveI : Nonempty s₁ := ⟨p', hp'.1⟩
+    haveI : Nonempty s₂ := ⟨p', hp'.2⟩
+    dist p (orthogonalProjection s₁ p) = dist p (orthogonalProjection s₂ p) ↔
+      ∠ p p' (orthogonalProjection s₁ p) = ∠ p p' (orthogonalProjection s₂ p) := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Angle/Bisector.lean:82]: Am I right in thinking this is also true as follows?
```suggestion
      ∠ p' p (orthogonalProjection s₁ p) = ∠ p' p (orthogonalProjection s₂ p) := by
```
Should we have this available asa primed lemma?

File: Mathlib/Geometry/Euclidean/Angle/Bisector.lean [hunk 2]
```diff
@@ -0,0 +1,113 @@
...
+
+-/
+
+
+namespace EuclideanGeometry
+
+variable {V P : Type*} [NormedAddCommGroup V] [InnerProductSpace ℝ V] [MetricSpace P]
+variable [NormedAddTorsor V P]
+
+private lemma dist_orthogonalProjection_eq_iff_angle_eq_aux₁ {p p' : P}
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Angle/Bisector.lean:24]: Could you add a doc comment to this one and the one below explaining how it is weaker than the main result?

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Bisector.lean:24]: I've added doc strings for these auxiliary lemmas for degenerate cases.

File: Mathlib/Geometry/Euclidean/Angle/Bisector.lean (hunk 1 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Bisector.lean:82]: I think it's true even for degenerate cases. I'm less convinced that it's particularly useful (considering that the involvement of the orthogonal projection is more essential in this version and the expected main use of the lemma is together with betweenness to get a bisection statement not involving the orthogonal projection at all).

File: Mathlib/Geometry/Euclidean/Angle/Bisector.lean [hunk 3]
```diff
@@ -0,0 +1,117 @@
...
+    (hp' : p' ∈ s₁ ⊓ s₂) :
+    haveI : Nonempty s₁ := ⟨p', hp'.1⟩
+    haveI : Nonempty s₂ := ⟨p', hp'.2⟩
+    dist p (orthogonalProjection s₁ p) = dist p (orthogonalProjection s₂ p) ↔
+      ∠ p p' (orthogonalProjection s₁ p) = ∠ p p' (orthogonalProjection s₂ p) := by
+  have : Nonempty s₁ := ⟨p', hp'.1⟩
+  have : Nonempty s₂ := ⟨p', hp'.2⟩
+  by_cases h' : p ∈ s₁ ∨ p ∈ s₂
+  · exact dist_orthogonalProjection_eq_iff_angle_eq_aux hp' h'
+  · rw [not_or] at h'
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Angle/Bisector.lean]: I think it would be reasonable to unindent here and below, since the line above is just dismissing a degenerate case.

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Angle/Bisector.lean]: Done.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
